US04439514
N,N'-Bis(4-nitro-2-trifluoromethylphenyl)-2,4-hexadiyn-1,6-diamine
To a suspension of Cu(OAc)2.H2O (4.5 g) in pyridinemethanol (1:1, 30 ml) was added N-(2-propynyl)-4-nitro-2-trifluoromethylaniline (3.01 g, 1.23×10-1 mole). The reaction mixture was stirred at 50° C. for two hours. The mixture was poured into excess water and filtered. The crude solid was recrystallized from nitromethane to afford pale pink crystals. Yield: 2.54 g (84%). The material does not melt below 200° C. but turns dark red at 135° C. I.R. (KBr): 3405 (NH), 1580 (Ar-NO2) and 1290 cm-1 (CF3).

reactant | N-(2-propynyl)-4-nitro-2-trifluoromethylaniline | 1.23×10-1 mole, 3.01 g | C(C#C)NC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C10H7F3N2O2
reactant | water | O | H2O
reactant | KBr | [K+].[Br-]
solvent | pyridinemethanol | 30 ml | N1=C(C=CC=C1)CO | C6H7NO
catalyst | Cu(OAc)2.H2O | 4.5 g | CC(=O)[O-].CC(=O)[O-].[Cu+2].O
product | N,N'-Bis(4-nitro-2-trifluoromethylphenyl)-2,4-hexadiyn-1,6-diamine | [N+](=O)([O-])C1=CC(=C(C=C1)NCC#CC#CCNC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F)C(F)(F)F | C20H12F6N4O4
